US04309426
3.93 g (0.03 mole) of 4-allyl-thiosemicarbazide and 7.00 g (0.03 mole) of 2,4-dichlorophenacyl chloride are reacted in accordance with the conditions of Example 1. Recrystallization from methanol/methyl acetate produces 8 g of 5-(2,4-dichlorophenyl)-N-2-propenyl-6H-1,3,4-thiadiazin-2-amine. m.p. 188°-189° C.

reactant | 4-allyl-thiosemicarbazide | 0.03 mole, 3.93 g | C(C=C)NC(NN)=S | C4H9N3S
reactant | 2,4-dichlorophenacyl chloride | 0.03 mole, 7.00 g | ClC1=C(C(CCl)=O)C=CC(=C1)Cl | C8H5Cl3O
product | 5-(2,4-dichlorophenyl)-N-2-propenyl-6H-1,3,4-thiadiazin-2-amine | 8 g | ClC1=C(C=CC(=C1)Cl)C1=NN=C(SC1)NCC=C | C12H11Cl2N3S
